US07189738B2
N-[4-(4-{[(5-Chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl]isonicotinamide
25 mg (0.24 mmol) of triethylamine and a catalytic amount of 4-dimethylaminopyridine are added to 40 mg (0.08 mmol) of N-[2-(4-aminobutyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-5-chloro-2-thiophenecarboxamide trifluoroacetate in 2 ml of THF. At 0° C., 17.4 mg (0.10 mmol) of isonicotinoyl chloride hydrochloride are then added. The reaction mixture is warmed to RT, stirred at RT for 3 h and then heated at reflux for 20 h. After cooling to RT, the reaction mixture is diluted with dichloromethane and washed with aqu. sat. NaHCO3 solution. The organic phase is dried over MgSO4, filtered and concentrated. The crude product is chromatographed on silica gel (CH2Cl2/EtOH=50/1). This gives 18.5 mg (47% of theory) of the desired product.

reactant | triethylamine | 0.24 mmol, 25 mg | C(C)N(CC)CC | C6H15N
reactant | N-[2-(4-aminobutyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-5-chloro-2-thiophenecarboxamide trifluoroacetate | 0.08 mmol, 40 mg | FC(C(=O)O)(F)F.NCCCCN1C(C2=CC=CC(=C2C1=O)NC(=O)C=1SC(=CC1)Cl)=O
reactant | isonicotinoyl chloride hydrochloride | 0.10 mmol, 17.4 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(4-{[(5-Chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)butyl]isonicotinamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCCCNC(C1=CC=NC=C1)=O)=O | C23H19ClN4O4S
